US07598397B2
Synthesis of 2-[(Naphthalen-2-ylmethyl)-amino]-benzene-1,3-diol, I-86.
Synthesis of (3-Naphthalen-2-ylmethyl-2-oxo-2,3-dihydro-benzooxazol-4-yloxy)-acetic acid tert-butyl ester, I-88. A mixture of compound I-87 (140 mg, 0.48 mmol), tert-butyl bromoacetate (136 mg, 0.7 mmol) and K2CO3 (95 mg, 0.7 mmol) in acetone (10 ml) and DMF (5 ml) was stirred at rt over night and then partitioned between EtOAc and water. Water layer was extracted with EtOAc. The combined organic phase was washed with water, brine and dried over sodium sulfate. After removal of solvent, 160 mg of compound I-88 was obtained. 1H-NMR (500 MHz, CDCl3).

reactant | (3-Naphthalen-2-ylmethyl-2-oxo-2,3-dihydro-benzooxazol-4-yloxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC=CC2=C1N(C(O2)=O)CC2=CC1=CC=CC=C1C=C2)=O | C24H23NO5
reactant | tert-butyl bromoacetate | 0.7 mmol, 136 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | K2CO3 | 0.7 mmol, 95 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-[(Naphthalen-2-ylmethyl)-amino]-benzene-1,3-diol | C1=C(C=CC2=CC=CC=C12)CNC1=C(C=CC=C1O)O | C17H15NO2
